US05260293
n-Butyllithium (12 ml of a 1.6M solution in hexane 19.2 mmol), at -110° C., was added dropwise to a solution of 5-bromopyrimidine (2.0 g, 12.5 mmol) in THF (60 ml) and ether (60 ml), at -110° C. (ethanol/liquid nitrogen bath). The resultant yellow solution was stirred at -110° C. for 1.25 h and a solution of quinuclidinone (1.72 g, 13.75 mmol) in THF (20 ml) also at -110° C., added dropwise. The reaction mixture was stirred at -110° C. for 0.1 h then warmed to room temperature and stirred for 16 h. 2N-Hydrochloric acid (25 ml) was added and stirred for 0.25 h. The organic phase was washed with water (15 ml) and the combined aqueous extracts basified with potassium carbonate and extracted with dichloromethane (4×75 ml). Chromatography of the residue obtained upon removal of the solvents through alumina using dichloromethane/methanol (90:10) as eluant, gave 3-(5-pyrimidinyl)-1-azabicyclo[2.2.2]octan-3-ol as a yellow solid, m.p. 126°-127° C. (ethyl acetate/ether); (Found C,61.42; H,7.47; N,19.60. C11H15N3O. O.5H2O requires C,61.66; H,7.53; N,19.61%); m/e 205(M+); δ (360 MHz,D2O) 1.30-1.44(1H,m,0.5×CH2); 1.65-1.74(2H,m,CH2); 2.10-2.20(1H,m,0.5×CH2); 2.30-2.32(1H,m,CH-bridgehead); 2.68-2.96(4H,m,2×CH2); 3.09(1H,dd,J=1.5 and 14.7 Hz, 0.5×CH2); 3.49(1H,dd,J=1.5 and 14.7 Hz,0,5×CH2); 8.96(2H,s,pyrimidine-H); 9.08(1H,s,pyrimidine-H).

reactant | n-Butyllithium | C(CCC)[Li]
reactant | hexane | 19.2 mmol | CCCCCC | C6H14
reactant | 5-bromopyrimidine | 12.5 mmol, 2.0 g | BrC=1C=NC=NC1 | C4H3BrN2
reactant | quinuclidinone | 13.75 mmol, 1.72 g | N12C(CC(CC1)CC2)=O | C7H11NO
reactant | Hydrochloric acid | 25 ml | Cl | ClH
reactant | THF | 60 ml | C1CCOC1 | C4H8O
reactant | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ether | 60 ml | CCOCC | C4H10O
solvent | ethyl acetate ether | C(C)(=O)OCC.CCOCC
solvent | dichloromethane methanol | ClCCl.CO
solvent | ethanol | C(C)O | C2H6O
product | 3-(5-pyrimidinyl)-1-azabicyclo[2.2.2]octan-3-ol | N1=CN=CC(=C1)C1(CN2CCC1CC2)O | C11H15N3O
